US07696193B2
Step 1: 1,1-Dimethylethyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
1,1-Dimethylethyl 7-{[(trifluoromethyl)sulfonyl]oxy)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (2.0 g, 5.06 mmol) (Bioorg. Med. Chem. Lett.; 10; 22; 2000; 2553-2556), bis(pinacolato)diboron (1.41 g, 5.57 mmol), 1,1′ bis(diphenylphosphino)ferrocenedichloropalladium (II) complex (0.22 g, 0.30 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.17 g, 0.30 mmol) and potassium acetate (1.49 g, 15.2 mmol) were added together in dry dioxane and the resulting mixture heated at 80° C. for 3 hours. The mixture was allowed to cool to room temperature, diluted with ethyl acetate and washed with water and brine. The organic portion was dried under magnesium sulfate and evaporated in vacuo. The resulting residue was purified by column chromatography eluting with a mixture of ethyl acetate:pentane (1:9) to afford the title compound (1.60 g); MS (ES+) m/e 274 [(M+H)—CO2tBu]+.

reactant | 1,1-Dimethylethyl 7-{[(trifluoromethyl)sulfonyl]oxy)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 5.06 mmol, 2.0 g | FC(S(=O)(=O)OC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)(F)F | C16H20F3NO5S
reactant | bis(pinacolato)diboron | 5.57 mmol, 1.41 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 15.2 mmol, 1.49 g | C(C)(=O)[O-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.30 mmol, 0.17 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 1,1-Dimethylethyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 1.60 g | CC1(OB(OC1(C)C)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)C | C21H32BNO4
